US04162366
This compound was prepared in the manner of Example II using 3.3 g of 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarbonyl chloride, whose preparation is described in J. Sci. Food and Agriculture, 18, 325 (1967), 4.3 g of α-trifluoromethyl-3-phenoxybenzyl alcohol, and 1.5 g of pyridine in 50 ml of toluene. Volatiles were distilled from the crude reaction product at 90°/0.08 mm for 1/2 hour, then at 100°/0.08 mm for 3/4 hour through a short path Kugelrohr distillation system to give as a residue 6.3 g of α-trifluoromethyl-3-phenoxybenzyl 3-(2,2-dimethylvinyl)-2,2-dimethylcyclopropanecarboxylate. The ir spectrum was consistent with the assigned structure.

reactant | 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarbonyl chloride | 3.3 g | CC1(C(C1C=C(C)C)C(=O)Cl)C | C10H15ClO
reactant | α-trifluoromethyl-3-phenoxybenzyl alcohol | 4.3 g | FC(C(C1=CC(=CC=C1)OC1=CC=CC=C1)O)(F)F | C14H11F3O2
reactant | pyridine | 1.5 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | α-trifluoromethyl-3-phenoxybenzyl 3-(2,2-dimethylvinyl)-2,2-dimethylcyclopropanecarboxylate | 6.3 g | CC(=CC1C(C1C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C(F)(F)F)(C)C)C | C24H25F3O3
